Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iron
 
Attending: ___.
 
Chief Complaint:
Hypertension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN presenting from orthopedic surgery clinic 
(appointment for knee cortisone injection) with persistent 
hypertension to > 200 after multiple checks. Patient reports 
that she has been unable to take her losartan 100 mg daily in 
the past 2 days because of a late delivery.  Patient took 1 dose 
of losartan prior to her appointment after she finally obtained 
her medication.  Apart from being noted to have high blood 
pressure, the patient is otherwise completely asymptomatic.  
Patient denies headache, visual difficulties, CP, SOB, abdominal 
pains, or dark urine.

Of note the patient is followed at APG. Her pressures over the 
last year have been between 120-140 while on losartan therapy. 
With the exception of this episode, she has been compliant with 
her antihypertensive therapy.

 
Past Medical History:
Dyslipidemia, dysrhythmia (h/o ventricular ectopic beats in 
bigeminy/trigeminy), cardiomyopathies (diastolic dysfunction), 
HTN, headaches, obesity, diverticulitis, h/o renal 
insufficiency, urinary incontinence ___ prolapsed bladder, open 
angle glaucoma, vertigo, hearing loss, tubal ligation, 
hysterectomy
 
Social History:
___
Family History:
Denies a family history of malignancy, arrhythmias, cardiac 
disease, sudden death
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: 97.8PO, 160/99, 56, 16, 97% Ra 
GENERAL: AAOx3, NAD, ___ speaking
HEENT: NC/AT, PERRL, EOMI, sclera anicteric, dry MM
NECK: supple, no JVD
CARDIAC: RRR, +S1/2, no murmurs/rubs/gallops
LUNGS: CTAB, no wheezing/rales/rhonchi
ABDOMEN: soft, obese, NTND, +BS
EXTREMITIES: no ___ edema, 2+ DPs
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact, ___ strength in LEs, Normal sensation 
in UE, walks with cane

DISCHARGE EXAM:
================
GENERAL: AAOx3, NAD, lying comfortably in bed
HEENT: NC/AT, PERRL, EOMI, sclera anicteric
NECK: supple, no JVD
CARDIAC: RRR, +S1/2, no murmurs/rubs/gallops
LUNGS: CTAB, no wheezing/rales/rhonchi
ABDOMEN: soft, obese, NTND, +BS
EXTREMITIES: no ___ edema, 2+ DPs
SKIN:  No rash es
NEUROLOGIC: CN2-12 intact, ___ strength in LEs, Normal sensation 
in UE
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:35PM BLOOD WBC-7.7 RBC-4.41 Hgb-11.0* Hct-35.6 
MCV-81* MCH-24.9* MCHC-30.9* RDW-16.2* RDWSD-47.1* Plt ___
___ 02:35PM BLOOD Glucose-108* UreaN-33* Creat-1.3* Na-141 
K-5.3 Cl-103 HCO3-22 AnGap-16

DISCHARGE LABS:
================
___ 07:08AM BLOOD WBC-5.9 RBC-3.66* Hgb-8.9* Hct-28.8* 
MCV-79* MCH-24.3* MCHC-30.9* RDW-16.3* RDWSD-46.7* Plt ___
___ 07:08AM BLOOD Glucose-95 UreaN-32* Creat-1.2* Na-143 
K-4.6 Cl-104 HCO3-24 AnGap-___ with PMH of HTN, CKD, normocytic anemia, HLD, 
diverticulitis, OA and osteoporosis presenting from orthopedics 
clinic with hypertensive urgency in setting of missing 
anti-hypertensive doses for 48-72 hours. 

=============
ACUTE ISSUES:
=============
#Severe Asymptomatic Hypertension
The patient was noted to be hypertensive at her ortho 
appointment in the setting of missing her home Losartan 100mg PO 
daily for 72 hours. On arrival to the ED, her SBP was 200 and 
she was given a dose of Labetolol 100mg. Her BP improved with 
this and was in the 160s on arrival to the floor. She had a 
slight ___ (discussed below) which resolved with better blood 
pressure control. She had no other signs of end organ damage 
including no EKG changes or LFT derangements. When her Cr 
normalized, she was restarted on her home Losartan 100mg PO 
daily and discharged home. Blood pressure on discharge was 161 / 
71.

___ on CKD
Baseline Cr ~1.1. Found to have mildly elevated Cr 1.3 in ED. 
She was given one liter of NS and this returned to baseline with 
improvement in her blood pressure. Her Losartan was initially 
held in this setting, however this was restarted with 
normalization of her creatinine as above. Creatinine was 1.2 on 
discharge.

===============
CHRONIC ISSUES:
===============
#Normocytic Anemia
#Anemia of Chronic Disease
Baseline hgb ___. Discharge Hgb was 8.9.

#GERD: Continued omeprazole 20mg daily

#Knee OA: Continued acetaminophen as needed

#HLD: Continued simvastatin 20mg

#Insomnia: Continued mirtazapine 7.5mg qHS, continued trazodone 
PRN

#Osteoporosis: Continued Ca and VitD supplementation

#Glaucoma: Continued latanoprost

#Stroke Prevention: Continued ASA 81mg

TRANSITIONAL ISSUES:
[] Please ensure that pt has antihypertensives at home
[] If needs further BP control, consider adding CACB
[] Would consider alternative analgesic rather than Ibuprofen 
given CKD, limit Ibuprofen if only effective agent
[] Please draw BMP at first f/u: Discharge Cr 1.2

#CODE: Full 
#CONTACT: ___ (daughter) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Mirtazapine 7.5 mg PO QHS 
3. Simvastatin 20 mg PO QPM 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
9. Calcium Carbonate 500 mg PO DAILY 
10. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Mirtazapine 7.5 mg PO QHS  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Severe hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because:
- Your blood pressure was very high at your knee appointment
- Because your blood pressure was so high, you had a small 
amount of damage to your kidneys

While you were here:
- You were given your home blood pressure medication
- Your blood pressure improved
- Your kidney function improved with better blood pressure 
control
- You were discharged home

When you leave:
- Please take all of your medications as prescribed
- Please follow up with you PCP 

___ was ___ pleasure to care for you during your hospitalization!

- Your ___ care team
 
Followup Instructions:
___